US08334236B2
(4) Production of 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid
1.66 g (7.1 mmol) of ethyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate was dissolved in 1,4-dioxane (50 mL), and 0.45 g (11 mmol) of lithium hydroxide monohydrate and 10 mL of water were added to the solution at room temperature. The resulting mixture was stirred for 1.5 hours at room temperature. The reaction mixture was poured into an aqueous solution of sodium hydrogen carbonate, and the mixture was washed with ethyl acetate. The aqueous phase was acidified with citric acid, and then the mixture was extracted with ethyl acetate. The organic phase was washed with water, dried, and concentrated. The residue was washed with diisopropyl ether, and 1.30 g (yield: 89%) of the title compound was obtained as colorless crystals.

reactant | ethyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 7.1 mmol, 1.66 g | CN1C(C(=CC2=CC=CN=C12)C(=O)OCC)=O | C12H12N2O3
reactant | lithium hydroxide monohydrate | 11 mmol, 0.45 g | O.[OH-].[Li+]
reactant | water | 10 mL | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 1.30 g, yield: 89% | CN1C(C(=CC2=CC=CN=C12)C(=O)O)=O | C10H8N2O3
